US07777047B2
2-(2-{7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)-N-1H-tetrazol-5-ylacetamide
To a mixture of (2-{7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (165 mg), 5-amino-tetrazole (37 mg), 1H-1,2,3-benzotriazol-1-ol (68 mg) and N,N-dimethylformamide (8 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (96 mg) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 2 days. The reaction solution was diluted with ethyl acetate, washed with water, aqueous citric acid solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by preparative HPLC to give the title compound (107 mg, yield 56%) as a pale-yellow amorphous solid. MS: 527 (MH+).

reactant | (2-{7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 165 mg | COC1=C(C=CC=C1)S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)C | C21H21N3O5S2
reactant | 5-amino-tetrazole | 37 mg | NC1=NN=NN1 | CH3N5
reactant | 1H-1,2,3-benzotriazol-1-ol | 68 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 96 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 2-(2-{7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)-N-1H-tetrazol-5-ylacetamide | 107 mg, yield 56% | COC1=C(C=CC=C1)S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)NC1=NN=NN1)C | C22H22N8O4S2
